US07592358B2
37.1c. tert-butyl (S)-2-({4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenylamino}methyl)pyrrolidine-1-carboxylate
4.90 g (20.00 mmol) of potassium phosphate monohydrate were added under argon to a mixture of 4.16 g (10.00 mmol) of 5-(4-chlorophenyl)-2-(4-iodophenylethynyl)pyridine, 3.10 g (15.00 mmol) of tert-butyl (S)-2-aminomethylpyrrolidine-1-carboxylate, 194 mg (1.00 mmol) of CuI, 0.77 g (4.00 mmol) of N,N-diethylsalicylamide in 10 mL of DMF and the mixture was stirred for 16 hours at 100° C. The reaction mixture was combined with 100 mL of 5% aqueous ammonia, stirred, and the precipitate was filtered off. The precipitate was purified by MPLC (Hyperprep HS C18, 8 μm, gradient 0.15% formic acid in water/acetonitrile 10/90→90/10 v/v). 2 fractions were isolated. Fraction 1: yield: 0.48 g (10% of theoretical); C29H30ClN3O2 (M=488.020) molpeak (M+H)+: 488/490 (Cl); found: molpeak (M+H)+: 488/490 (Cl); Rf value: 0.60 (silica gel, PE/EtOAc 1:1).

reactant | potassium phosphate monohydrate | 20.00 mmol, 4.90 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 5-(4-chlorophenyl)-2-(4-iodophenylethynyl)pyridine | 10.00 mmol, 4.16 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)I | C19H11ClIN
reactant | tert-butyl (S)-2-aminomethylpyrrolidine-1-carboxylate | 15.00 mmol, 3.10 g | NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N,N-diethylsalicylamide | 4.00 mmol, 0.77 g | C(C)N(C(C=1C(O)=CC=CC1)=O)CC | C11H15NO2
reactant | ammonia | 100 mL | N | H3N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1.00 mmol, 194 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (S)-2-({4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenylamino}methyl)pyrrolidine-1-carboxylate | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C29H30ClN3O2
